US07964643B2
4′-Fluorobiphenyl sulfonyl chloride
4′-Fluorobiphenyl sulfonic acid (3 g) was refluxed in thionyl chloride (30 mL) with a catalytic quantity of DMF (0.5 mL) for 4 hours. Toluene was added and the solvents evaporated under vacuum to give the title compound as an amorphous solid.

reactant | 4′-Fluorobiphenyl sulfonic acid | 3 g | FC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)O | C12H9FO3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
product | 4′-Fluorobiphenyl sulfonyl chloride | FC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)Cl | C12H8ClFO2S
